US05196439
2-[4-(p-Fluorobenzoyl)piperidinyl]-1'-methoxy-2'-acetonaphthone hydrochloride
1.5 g of 2-bromo-1'-methoxy-2'-acetonaphthone, 1.3 g of 4-(p-fluorobenzoyl)piperidine hydrochloride, and 1.6 g of triethylamine were added to 60 ml of ethanol. The mixture was refluxed for 15 min. The solvent was distilled off, and dichloromethane was added to the residue. The mixture was washed with water and dried. The dichloromethane was distilled off, and the residue was purified by column chromatography (silica gel) to prepare an oleaginous intended compound. The compound was converted into a hydrochloride by an ordinary method and then recrystallized to prepare 1.38 g of an intended hydrochloride.

reactant | 2-bromo-1'-methoxy-2'-acetonaphthone | 1.5 g | BrCC(=O)C1=C(C2=CC=CC=C2C=C1)OC | C13H11BrO2
reactant | 4-(p-fluorobenzoyl)piperidine hydrochloride | 1.3 g | Cl.FC1=CC=C(C(=O)C2CCNCC2)C=C1
reactant | triethylamine | 1.6 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloride | Cl | ClH
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 2-[4-(p-Fluorobenzoyl)piperidinyl]-1'-methoxy-2'-acetonaphthone hydrochloride | Cl.FC1=CC=C(C(=O)C2CCN(CC2)CC(=O)C2=C(C3=CC=CC=C3C=C2)OC)C=C1 | InChI=1S/C25H24FNO3.ClH/c1-30-25-21-5-3-2-4-17(21)8-11-22(25)23(28)16-27-14-12-19(13-15-27)24(29)18-6-9-20(26)10-7-18;/h2-11,19H,12-16H2,1H3;1H
